US06319946B1
N-tert-Butoxycarbonyl-3-chlorosulfonyl-N-ethylaniline
3-Bromo-N-tert-butoxycarbonyl-N-ethylaniline (3.0 mmol) was dissolved in freshly distilled THF (25 ml) under a N2 atmosphere. The solution was chilled to −78° C. and butyl lithium (1.8 ml, 2.0 M solution in cyclohexane, 3.6 mmol) was added. After 35 minutes, sulfuryl chloride (0.30 ml, 3.6 mmol) was added over ˜2 minutes. The reaction was stirred for 5 minutes at −78° C. then was allowed to warm to room temperature. After 30 minutes at room temperature the reaction was cooled to −78° C. and quenched with a saturated ammonium chloride solution. The THF was removed by evaporation and the resulting residue was and partitioned between EtOAc and H2O. The aqueous phase was extracted with EtOAc and the combined organic phases were washed with H2O and brine before being dried with Na2SO4. The solvent was removed in vacuo to give 900 mg of crude product. HPLC showed the material to be ˜80% pure and it was used as is. LC/MS (ES): 320.1 (M+1).

reactant | 3-Bromo-N-tert-butoxycarbonyl-N-ethylaniline | 3.0 mmol | BrC=1C=C(N(CC)C(=O)OC(C)(C)C)C=CC1 | C13H18BrNO2
reactant | butyl lithium | 3.6 mmol, 2.0 M, 1.8 ml | C(CCC)[Li]
reactant | sulfuryl chloride | 3.6 mmol, 0.30 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | N-tert-Butoxycarbonyl-3-chlorosulfonyl-N-ethylaniline | 900 mg | C(C)(C)(C)OC(=O)N(C1=CC(=CC=C1)S(=O)(=O)Cl)CC | C13H18ClNO4S
